US05684034
2-[[3-(2-Amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester. 2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide (135 mg, 0.44 mmol) was added to 17.6 mg (0.44 mmol) of NaH/mineral oil (washed with hexanes) in 5 mL of DMF, stirred 1.5 hours, 0.04 mL (0.44 mmol) of methyl 2-bromoacetate added and stirring maintained for 3 hours. The mixture was diluted with water, extracted with ethyl acetate. The ethyl acetate was washed with brine, dried (MgSO4) and concentrated. The residue was chromatographed on silica gel eluting with 2% MeOH/ethyl acetate to give 34 mg (34% yield) of 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester.

reactant | 2-[[3-(2-Amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C22H24N2O4
reactant | 2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 0.44 mmol, 135 mg | C(C)C=1N(C2=CC=CC(=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C19H20N2O2
reactant | NaH | 0.44 mmol, 17.6 mg | [H-].[Na+]
reactant | methyl 2-bromoacetate | 0.44 mmol, 0.04 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 34 mg, 34% yield | COC(COC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)CC(=O)N)=O | C20H20N2O4
